* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 17.6
R1 n1 a 3
R2 a nc 5
V2 nc nd DC 29.4
R3 nd ne 3
V3 b ne DC 15.6
V4 nf b DC 8.9
R4 nf 0 4
.op
.print dc V(a) V(b)
.end